US04470986
Potassium cyanide (11.18 g) and dibenzo-18-crown-6 (1.0 g) are added to a solution of 4-(3-chloropropyl)pyridine (6.68 g) prepared from 4-(3-hydroxypropyl)pyridine, in 300 ml of dry acetonitrile under nitrogen. The mixture is refluxed for 24 hours, the solvent evaporated and the residue partitioned between methylene chloride and water. The aqueous phase is further extracted with methylene chloride (3×100 ml) and the combined extracts are dried over sodium sulfate, decolorized with charcoal and evaporated to yield 4-(3-cyanopropyl)pyridine as a colorless oil.

reactant | Potassium cyanide | 11.18 g | [C-]#N.[K+]
reactant | dibenzo-18-crown-6 | 1.0 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
reactant | 4-(3-chloropropyl)pyridine | 6.68 g | ClCCCC1=CC=NC=C1 | C8H10ClN
reactant | 4-(3-hydroxypropyl)pyridine | OCCCC1=CC=NC=C1 | C8H11NO
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-(3-cyanopropyl)pyridine | C(#N)CCCC1=CC=NC=C1 | C9H10N2
